US04804400
Preparation of N-(4-chloro-2-fluoro-5-isopropoxyphenyl)-2,3-dimethylmaleic acid imide
A mixture of 20.4 g (0.1 mol) of 2-fluoro-4-chloro-5-isopropoxyaniline and 12.6 g (0.1 mol) of dimethylmaleic anhydride in 100 ml of glacial acetic acid is stirred for 6 hours at a temperature of 130°-140°. It is then allowed to cool to room temperature and the almost black reaction solution is concentrated in a rotary evaporator. The residue is taken up in ethyl acetate and the solution is washed in succession with water, 1M soda solution, water and concentrated salt brine. It is then dried over sodium sulphate, filtered and concentrated in vacuo. The dark oil remaining is crystallised from ethanol with the aid of activated carbon. 17.6 g of title product (56.5% of the theoretical yield) which melts at 93°-95° is thus obtained.

reactant | 2-fluoro-4-chloro-5-isopropoxyaniline | 0.1 mol, 20.4 g | FC1=C(N)C=C(C(=C1)Cl)OC(C)C | C9H11ClFNO
reactant | dimethylmaleic anhydride | 0.1 mol, 12.6 g | C/C/1=C(/C(=O)OC1=O)\C | C6H6O3
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | N-(4-chloro-2-fluoro-5-isopropoxyphenyl)-2,3-dimethylmaleic acid imide | 17.6 g | ClC1=CC(=C(C=C1OC(C)C)N1C(C(=C(C1=O)C)C)=O)F | C15H15ClFNO3
